US07288548B2
2-(4-Bromobenzyl)-2,8-diaza-spiro[4.5]decan-1-one hydrochloride
To 4.62 g of crude 2-(4-bromobenzyl)-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester from preparation 1 were added 50 mL of 4N solution of dioxane/HCl. The reaction mixture was agitated 15 minutes at room temperature and 3.05 g (77.8%) of 2-(4-bromobenzyl)-2,8-diaza-spiro[4.5]decan-1-one hydrochloride was collected, as a colorless solid, after filtration and subsequent wash steps with diethyl ether.

reactant | 2-(4-bromobenzyl)-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 4.62 g | C(C)(C)(C)OC(=O)N1CCC2(CCN(C2=O)CC2=CC=C(C=C2)Br)CC1 | C20H27BrN2O3
reactant | dioxane HCl | O1CCOCC1.Cl
product | 2-(4-Bromobenzyl)-2,8-diaza-spiro[4.5]decan-1-one hydrochloride | Cl.BrC1=CC=C(CN2C(C3(CC2)CCNCC3)=O)C=C1 | InChI=1S/C15H19BrN2O.ClH/c16-13-3-1-12(2-4-13)11-18-10-7-15(14(18)19)5-8-17-9-6-15;/h1-4,17H,5-11H2;1H
